US09062048B2
Step A: 8-cyclopentyl-1,4-dioxaspiro[4.5]decane
To a flask containing 1-(1,4-dioxaspiro[4.5]decan-8-yl)cyclopent-3-enol (218 mg, 0.972 mmol), prepared in the Example 28 Step B, and Palladium on Carbon (157 mg, 0.074 mmol) was carefully added methanol (24 mL). The reaction flask was evacuated, backfilled with hydrogen via balloon and stirred at room temperature overnight. The catalyst was removed by filtration and the filtrate concentrated in vacuo to afford the product.

reactant | 1-(1,4-dioxaspiro[4.5]decan-8-yl)cyclopent-3-enol | 0.972 mmol, 218 mg | O1CCOC12CCC(CC2)C2(CC=CC2)O | C13H20O3
catalyst | Palladium on Carbon | 0.074 mmol, 157 mg | [Pd] | Pd
solvent | methanol | 24 mL | CO | CH4O
product | 8-cyclopentyl-1,4-dioxaspiro[4.5]decane | C1(CCCC1)C1CCC2(OCCO2)CC1 | C13H22O2
